US05990142
20E Ethyl 4-oxo-8-[(E)-2-[4-(4-phenylbutoxy)phenyl]-ethen-1-yl]-4H-1-benzopyran-2-carboxylate
Following the process described in example 1 (point A), starting from 3'-[(E)-2-[4-(4-phenylbutoxy)phenyl]-ethen-1-yl]-2'-hydroxyacetophenone and diethyl oxalate, the title compound was prepared, which was purified by chromatography through a silica gel column, eluting with petroleum ether:chloroform, 6:4 (66% yield).

reactant | 3'-[(E)-2-[4-(4-phenylbutoxy)phenyl]-ethen-1-yl]-2'-hydroxyacetophenone | C1(=CC=CC=C1)CCCCOC1=CC=C(C=C1)/C=C/C=1C(=C(C=CC1)C(C)=O)O | C26H26O3
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | Ethyl 4-oxo-8-[(E)-2-[4-(4-phenylbutoxy)phenyl]-ethen-1-yl]-4H-1-benzopyran-2-carboxylate | 66% yield | O=C1C=C(OC2=C1C=CC=C2\C=C\C2=CC=C(C=C2)OCCCCC2=CC=CC=C2)C(=O)OCC | C30H28O5
